US08071603B2
To a solution of 4-bromobenzoyl chloride (0.600 g, 2.700 mmol) in dichloromethane (20 mL) was added 2-cyclopropylethylamine (0.270 g, 3.28 mmol) at 0° C. The mixture was stirred at ambient temperature for 12 hours, then washed sequentially with diluted HCl solution and NaHCO3. The organic phase was separated, dried and concentrated. The residue was purified by column chromatography and recrystallization from ethyl acetate and hexane to afford 4-chloro-N-(2-cyclopropylethyl)benzamide.

reactant | 4-bromobenzoyl chloride | 2.700 mmol, 0.600 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | 2-cyclopropylethylamine | 3.28 mmol, 0.270 g | C1(CC1)CCN | C5H11N
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-chloro-N-(2-cyclopropylethyl)benzamide | ClC1=CC=C(C(=O)NCCC2CC2)C=C1 | C12H14ClNO
